US09227970B2
a) 6-Bromo-2-(3-methoxy-pyrrolidin-1-yl)-[1,2,4]triazolo[1,5-a]pyridine
Using pyrrolidine, this compound was prepared following the same method as for the synthesis of 6-bromo-2-morpholin-4-yl-[1,2,4]triazolo[1,5-a]pyridine Brown solid (2.5 g, 47%). MS: m/z=298 (M+H+).

reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | 6-bromo-2-morpholin-4-yl-[1,2,4]triazolo[1,5-a]pyridine | 2.5 g | BrC=1C=CC=2N(C1)N=C(N2)N2CCOCC2 | C10H11BrN4O
product | 6-Bromo-2-(3-methoxy-pyrrolidin-1-yl)-[1,2,4]triazolo[1,5-a]pyridine | BrC=1C=CC=2N(C1)N=C(N2)N2CC(CC2)OC | C11H13BrN4O
